US04168385
Methyl (phenylthio)(p-iodophenyl)acetate
In a similar manner as in Example 29, 14.2 g of methyl α-bromo-α-(p-iodophenyl)acetate is reacted with 5.5 g of thiophenol in methanol to yield white crystals, mp 62.5°-65° C.

reactant | methyl α-bromo-α-(p-iodophenyl)acetate | 14.2 g | BrC(C(=O)OC)C1=CC=C(C=C1)I | C9H8BrIO2
reactant | thiophenol | 5.5 g | C1(=CC=CC=C1)S | C6H6S
solvent | methanol | CO | CH4O
product | Methyl (phenylthio)(p-iodophenyl)acetate | C1(=CC=CC=C1)SC(C(=O)OC)C1=CC=C(C=C1)I | C15H13IO2S
